2156-01-28 08:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continued on argatroban and broadspectrum abx
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-1-27**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-28**] 12:00 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-28**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 53 (44 - 151) bpm
   BP: 116/61(80) {94/50(65) - 152/83(102)} mmHg
   RR: 20 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
    CVP: 21 (20 - 27)mmHg
   Total In:
                                                                 11,384 mL
                                                                    817 mL
   PO:
   TF:
   IVF:
                                                                  5,384 mL
                                                                    817 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    960 mL
   Urine:
                                                                  1,780 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,604 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.30/29/123/16/-10
   Ve: 5.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   11.3 g/dL
   109 mg/dL
   0.9 mg/dL
   16 mEq/L
   3.5 mEq/L
   18 mg/dL
   116 mEq/L
   138 mEq/L
   33.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2156-1-27**]  09:55 AM
                             [**2156-1-27**]  11:10 AM
                             [**2156-1-27**]  02:31 PM
                             [**2156-1-27**]  05:11 PM
                             [**2156-1-27**]  06:13 PM
                             [**2156-1-27**]  08:42 PM
                             [**2156-1-28**]  12:28 AM
                             [**2156-1-28**]  12:40 AM
                             [**2156-1-28**]  05:45 AM
                             [**2156-1-28**]  05:56 AM
   WBC
   13.2
   13.5
   13.2
   15.1
   18.3
   Hct
   30.5
   28.6
   30.5
   31.8
   33.1
   Plt
   113
   118
   135
   148
   158
   Cr
   0.9
   0.9
   0.7
   0.9
   0.9
   0.9
   TropT
   0.01
   0.02
   0.02
   0.02
   TCO2
   17
   18
   16
   15
   Glucose
   [**Telephone/Fax (3) 5012**]30
   97
   109
   Other labs: PT / PTT / INR:42.7/79.4/4.7, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:192/121, Alk Phos / T Bili:54/1.0,
   Amylase / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:107 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   78 y/o lady supraventricular tachycardia comes in with shock and
   respiratory distress.
   .
   # Shock:  Patient is in cardiogenic shock with depressed EF wall motion
   abnormality and decreased cardiac out put.  Physical exam converning
   for vasocontriction on presentation.  Patient also might have septic
   shock complicating her picture.  Most likely source is urosepsis vs
   sepsis secondary to shock bowel.  Also concerning CXR for pneumonia.
   - Broad coverage with Vanc/zosyn/cipro
   - IVF to keep preload up
   - Transfuse to HCT above 30
   - currently on phenylephrine given tachycardia, will start vasopressin
   as next pressor
   - check random cortisol
   - follow up TTE results
   - follow up official radiology reads
   - cycle CE
   - argatraban for coagulopathy
   - appreciate general surgery recs
   .
   # Acute respiratory failure:  Oxygent sats dropped to 60s in ED,
   however unsure how good of a pleth obtained given patient was clamping
   down.  Unclear etiology.  S/p intubation.  CXR concerning for
   developing PNA.
   - Abx as above
   - frequent ABG
   .
   # Coagulopathy:  Concern for HIT given recent exposure on [**1-14**]%
   drop in plt since then.  Patient has multiple thrombus including PE,
   arotic/celiac thrombus and most likely emboli leading to splenic
   infarct and ? bowel infarct.  DIC will be lower in the differential.
   - appreciate heme/onc recs, will send for lupus/anticardiolipin Ab
   - Argatraban gtt, titrate to PTT 60-80
   - HIT Ab sent
   - peripheral smear
   - appreciate vascular surgery recs
   .
   # Right Ureteral Stone:  Does not seem like an acute complication.
   - appreciate urology recs
   - broadspectrum Abx as above
   .
   # Decreasing HCT:  Patient was bleeding in left hematoma and small
   jugular hematoma after line attempt.
   - check HCT q6h
   - T and C for 3 units
   - transfuse to HCT above 30
   .
   # Right carotid and left femoral small hematoma:  After attempt of
   central line placment.
   - currently appears stable
   - continue to monitor
   .
   # Tachycardia: Afib with RVR.  Seen by cardiology in the past.  Patient
   went into rapid afib with RVRs to 150-160s soon after admission to
   MICU.  Amio bolus converted to sinus but then switched back to AFRVR.
   - currently in sinus
   - continue amio drip to load
   - on argatraban
   - replete lytes prn
   .
   # FEN: NPO for now; replete lytes prn
   .
   # Prophylaxis:  Agartroban, PPI
   .
   # Access: Right triple lumen femoral, right Aline
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: [**Name (NI) 50**], Mr.[**First Name8 (NamePattern2) **] [**Known lastname 4999**], [**Telephone/Fax (1) 5000**]
   .
   # Dispo:  ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-27**] 12:58 PM
   Arterial Line - [**2156-1-27**] 01:53 PM
   18 Gauge - [**2156-1-27**] 08:59 PM
   20 Gauge - [**2156-1-27**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-01-28 10:38:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   PE
   Celiac Thrombus
   ?HIT
   afib w RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 y/o f with htn, afib, ureteral stone p/w diffuse thrombi, sepsis, ?
   HIT, ?ischemic bowel.
   24 Hour Events:
   Yesterday developed afib w RVR, shocked X1 with brief conversion, then
   recurrent afib. Started on amiodarone and levo switched to neo. In and
   out of sinus all night. Started on argatroban for ?HIT. Giving IVF to
   keep femoral CVP >20. Hct stable in 30s.
 MULTI LUMEN - START [**2156-1-27**] 12:58 PM
 ARTERIAL LINE - START [**2156-1-27**] 01:53 PM
 CARDIOVERSION/DEFIBRILLATION - At [**2156-1-27**] 03:00 PM
 EKG - At [**2156-1-27**] 03:15 PM
 EKG - At [**2156-1-27**] 08:02 PM
 EKG - At [**2156-1-28**] 04:15 AM
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-28**] 08:31 AM
   Ciprofloxacin - [**2156-1-28**] 09:14 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Amiodarone - 0.5 mg/min
   Phenylephrine - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-28**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 119 (44 - 151) bpm
   BP: 100/69(81) {94/50(65) - 152/83(102)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
   CVP: 21 (20 - 27)mmHg
   Total In:
                                                                 11,384 mL
                                                                  1,286 mL
   PO:
   TF:
   IVF:
                                                                  5,384 mL
                                                                  1,286 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                  1,060 mL
   Urine:
                                                                  1,780 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,604 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.30/29/123/16/-10
   Ve: 5.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   158 K/uL
   109 mg/dL
   0.9 mg/dL
   16 mEq/L
   3.5 mEq/L
   18 mg/dL
   116 mEq/L
   138 mEq/L
   33.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2156-1-27**]  09:55 AM
                             [**2156-1-27**]  11:10 AM
                             [**2156-1-27**]  02:31 PM
                             [**2156-1-27**]  05:11 PM
                             [**2156-1-27**]  06:13 PM
                             [**2156-1-27**]  08:42 PM
                             [**2156-1-28**]  12:28 AM
                             [**2156-1-28**]  12:40 AM
                             [**2156-1-28**]  05:45 AM
                             [**2156-1-28**]  05:56 AM
   WBC
   13.2
   13.5
   13.2
   15.1
   18.3
   Hct
   30.5
   28.6
   30.5
   31.8
   33.1
   Plt
   113
   118
   135
   148
   158
   Cr
   0.9
   0.9
   0.7
   0.9
   0.9
   0.9
   TropT
   0.01
   0.02
   0.02
   0.02
   TCO2
   17
   18
   16
   15
   Glucose
   [**Telephone/Fax (3) 5012**]30
   97
   109
   Other labs: PT / PTT / INR:42.7/79.4/4.7, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:192/121, Alk Phos / T Bili:54/1.0,
   Amylase / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:107 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1. Sepsis, possible cardiomyopathy
   -IVF to keep femoral CVP 20-22
   -cont. neo to keep MAP >60
   -vanco/zosyn/cipro
   -random cortisol 20
   -f/u vasc recs, but seems to have improved rapidly
   -all micro neg so far
   2. Resp failure: [**Month (only) 8**] have been intubated for innaccurate sat
   -check sputum cx
   -turn off sedation, check a RSBI
   3. Coagulopathy: ? HIT vs DIC
   -f/u what smear looks like
   -possible HIT
   -PF4 Ab, cont. argatroban for PTT 60-80
   -trend fibrinogen, cryo for <100
   4. R ureteral stone: No hydro, U/A neg
   -f/u with urology
   5. Hematomas: R cartid stick ? L femoral art stick?
   -hct q6h, transfuse for hct >30
   6. afib w RVR: Amiodarone load, then start 200 mg amio tid
   -using neo for HR
   -f/u with EP
   7. FEN: NPO, possible extubation today
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2156-1-27**] 12:58 PM
   Arterial Line - [**2156-1-27**] 01:53 PM
   18 Gauge - [**2156-1-27**] 08:59 PM
   20 Gauge - [**2156-1-27**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have reviewed and agree with the fellow
s assessment and plan with
   the following emphasis and modifications:
    78 year old history of urinary tract infection and stone who presented
   to ED in shock/respiratory failure and ultimately found to have
   pulmonary embolism, aortic thrombus, celiac occlusion, and urinary
   tract infection.
   Overnight, she continued to have intermittent atrial fibrillation with
   RVR but blood pressure improved and is currently on minimal
   phenylephrine.  Also, weaned down on ventilator and doing well on
   minimal vent settings.
   T 98.6  P 126  (a. fib)  BP 121/74  RR 22 100% on Fio2 0.4
   Gen: Intubated, awake, alert
   Chest: CTA bilaterally
   Heart: Irreg irreg
   Abd: slightly distended but soft NT
   Ext: warm
   Lactate: 1.2
   Urine Output: > 50 cc/hour
   INR: 4.2
   PTT: 80
   CXR: bilat effusions, slight bilat infiltrates
   Discussion: Patient with diffuse thrombosus which most likely is
   related to HIT that developed from previous brief hospital course.  She
   likely also has underlying urine infection/urosepsis which may be
   contributing to shock state.
   1)       Shock
 improving (likely combination of
   sepsis/PE[obstructive])
   2)       Acute Respiratory Failure
   3)       Pulmonary Embolism
   4)       Aortic Thrombosus
   5)       Atrial Fibrillation
   Plan:
   1)       Though patient still on minimal vasopressor-support, she
   appears ready for extubation.  As mechanical ventilation can contribute
   to hypotension in pulmonary embolism through ventricular
   inter-dependence and she may have component affected through a. fib, I
   believe extubating on minimal vasopressor is justified in this instance
   2)       Continue Amiodarone for a. fib
   3)       Continue agatroban and follow HIT antibodies
   4)       Continue communication with vascular and general surgery
   though does not seem like intervention needed at this time
   Critical Care Time: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2156-1-28**] 15:38 ------

2156-01-29 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated
   - fibrinogen, plts, HCT stable
   - cont to flip in and out of afib
   - amio drip transitioned to PO
   - HIT sent
   - pressor weaned off at midnight
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-1-28**] 10:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-28**] 11:57 PM
   Ciprofloxacin - [**2156-1-29**] 07:30 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-29**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 146 (56 - 146) bpm
   BP: 108/67(77) {108/67(77) - 108/67(77)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
    CVP: 23 (16 - 25)mmHg
   Total In:
                                                                  2,436 mL
                                                                    230 mL
   PO:
   TF:
   IVF:
                                                                  2,436 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,240 mL
   Urine:
                                                                  2,440 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                 -1,010 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 399 (399 - 399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.35/24/91/16/-10
   Ve: 9.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   139 K/uL
   10.6 g/dL
   90 mg/dL
   0.8 mg/dL
   16 mEq/L
   3.4 mEq/L
   12 mg/dL
   113 mEq/L
   136 mEq/L
   31.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2156-1-28**]  12:28 AM
                             [**2156-1-28**]  12:40 AM
                             [**2156-1-28**]  05:45 AM
                             [**2156-1-28**]  05:56 AM
                             [**2156-1-28**]  11:36 AM
                             [**2156-1-28**]  12:41 PM
                             [**2156-1-28**]  03:25 PM
                             [**2156-1-28**]  05:33 PM
                             [**2156-1-29**]  12:04 AM
                             [**2156-1-29**]  05:53 AM
   WBC
   15.1
   18.3
   16.0
   Hct
   31.8
   33.1
   33.2
   33.0
   31.8
   31.0
   Plt
   148
   158
   149
   145
   148
   139
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   0.02
   TCO2
   16
   15
   16
   14
   Glucose
   97
   109
   90
   Other labs: PT / PTT / INR:40.9/72.7/4.5, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:134/54, Alk Phos / T Bili:48/1.3,
   Amylase / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:272 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   78 y/o lady supraventricular tachycardia comes in with shock and
   respiratory distress.
   .
   # Shock:  Patient is in cardiogenic shock with depressed EF wall motion
   abnormality and decreased cardiac out put.  Physical exam converning
   for vasocontriction on presentation.  Patient also might have septic
   shock complicating her picture.  Most likely source is sepsis secondary
   to shock bowel vs pneumonia.  Unlikely to be due to urosepsis.
   - Broad coverage with Vanc/zosyn/cipro
   - IVF to keep preload up
   - Transfuse to HCT above 30
   - monitor UOP
   - currently on phenylephrine given tachycardia, will start vasopressin
   as next pressor if needed
   - random cortisol is normal
   - ruled out for MI
   - argatraban for coagulopathy
   - appreciate general surgery recs
   .
   # S/p intubation:  Oxygent sats dropped to 60s in ED, however unsure
   how good of a pleth obtained given patient was clamping down.  Unclear
   etiology.  CXR concerning for developing PNA.
   - Abx as above
   - compliance is ok, SBT today and attempt extubation
   - sputum culture
   .
   # Coagulopathy:  Concern for HIT given recent exposure on [**1-14**]%
   drop in plt since then.  Patient has multiple thrombus including PE,
   arotic/celiac thrombus and most likely emboli leading to splenic
   infarct and ? bowel infarct.  DIC will be lower in the differential.
   - appreciate heme/onc recs, will send for lupus/anticardiolipin Ab
   - Argatraban gtt, titrate to PTT 60-80
   - HIT Ab sent
   - serial fibrinogen
   - peripheral smear
   - appreciate vascular surgery recs
   .
   # Tachycardia: Afib with RVR.  Seen by cardiology in the past.  Patient
   went into rapid afib with RVRs to 150-160s soon after admission to
   MICU.  Amio bolus converted to sinus but then switched back to AFRVR.
   - currently in sinus
   - continue amio IV drip to load then switch to PO load 200 mg tid x 1
   week
   - on argatraban
   - replete lytes prn
   .
   # Right Ureteral Stone:  Does not seem like an acute complication.
   - appreciate urology recs
   - broadspectrum Abx as above
   .
   # Decreased HCT since admission:  Currently stable around 30s.
   Patient was bleeding in left hematoma and small jugular hematoma after
   line attempt.
   - check HCT q6h
   - active T&C
   - transfuse to HCT above 30
   .
   # FEN: NPO for now, could attempt to advance if extubated; replete
   lytes prn
   .
   # Prophylaxis:  Agartroban, PPI, VAP bundle
   .
   # Access: Right triple lumen femoral, right Aline
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: [**Name (NI) 50**], Mr.[**First Name8 (NamePattern2) **] [**Known lastname 4999**], [**Telephone/Fax (1) 5000**]
   .
   # Dispo:  ICU for now
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2156-1-27**] 12:58 PM
   Arterial Line - [**2156-1-27**] 01:53 PM
   18 Gauge - [**2156-1-28**] 10:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-01-29 10:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday, now off pressors. HIT Ab pending. Now on
   amiodarone po.
 BLOOD CULTURED - At [**2156-1-28**] 11:56 AM
 BLOOD CULTURED - At [**2156-1-28**] 05:36 PM
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-1-28**] 10:43 AM
   Ciprofloxacin - [**2156-1-29**] 07:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-29**] 09:00 AM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-1-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-29**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 141 (56 - 146) bpm
   BP: 93/59(69) {93/55(69) - 140/95(107)} mmHg
   RR: 27 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
   CVP: 18 (16 - 25)mmHg
   Total In:
                                                                  2,436 mL
                                                                    337 mL
   PO:
   TF:
   IVF:
                                                                  2,436 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                  1,450 mL
   Urine:
                                                                  2,440 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -4 mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 399 (399 - 399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.35/24/91/16/-10
   Ve: 9.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   139 K/uL
   90 mg/dL
   0.8 mg/dL
   16 mEq/L
   3.4 mEq/L
   12 mg/dL
   113 mEq/L
   136 mEq/L
   31.0 %
   16.0 K/uL
         [image002.jpg]
                             [**2156-1-28**]  12:28 AM
                             [**2156-1-28**]  12:40 AM
                             [**2156-1-28**]  05:45 AM
                             [**2156-1-28**]  05:56 AM
                             [**2156-1-28**]  11:36 AM
                             [**2156-1-28**]  12:41 PM
                             [**2156-1-28**]  03:25 PM
                             [**2156-1-28**]  05:33 PM
                             [**2156-1-29**]  12:04 AM
                             [**2156-1-29**]  05:53 AM
   WBC
   15.1
   18.3
   16.0
   Hct
   31.8
   33.1
   33.2
   33.0
   31.8
   31.0
   Plt
   148
   158
   149
   145
   148
   139
   Cr
   0.9
   0.9
   0.8
   TropT
   0.02
   0.02
   TCO2
   16
   15
   16
   14
   Glucose
   97
   109
   90
   Other labs: PT / PTT / INR:40.9/72.7/4.5, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:134/54, Alk Phos / T Bili:48/1.3,
   Amylase / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:272 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1. Sepsis: Continue broad abx for now
   -f/u cx, possible HAP vs bowel trnaslocation
   2. Diffuse thrombi: Suspect HIT maybe DIC
   -cont. argatroban
   -suspect RUE
   -consider coumadin when all procedures done
   -f/u PF4 Ab
   3. Rapid rhythym: AVNRT and afib at times
   -amio for now
   -hold off on BB as just recovering from sepsis
   -f/u EP recs
   4. R UVJ stone: f/u with urology for stone removal, no evidence of
   urosepsis
   5. Anemia: Hematomas at prior line sites
   -hct stable
   6. FEN: start heart healthy diet
   7. Access: Try and place PIVs, if need additional access need PICC
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2156-1-27**] 12:58 PM
   Arterial Line - [**2156-1-27**] 01:53 PM
   18 Gauge - [**2156-1-28**] 10:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have reviewed and agree with the fellow
s assessment and plan with
   the following emphasis and modifications:
   78 year old history of urinary tract infection and stone who presented
   to ED in shock/respiratory failure and ultimately found to have
   pulmonary embolism, aortic thrombus, celiac occlusion, and urinary
   tract infection.
   Overnight, she continued to have intermittent atrial fibrillation with
   RVR but blood pressure issues are resolved. Doing fine off the
   ventilator.
   T 98.6  P 130  (a. fib)  BP 121/74  RR 22 95%
   Gen: extubated, awake, conversant and in no acute distress
   Chest: CTA bilaterally
   Heart: Irreg irreg
   Abd: slightly distended but soft NT
   Ext: warm
   Discussion: Patient with diffuse thrombosus which most likely is
   related to HIT that developed from previous brief hospital course.  She
   likely also has underlying urine infection/urosepsis which may be
   contributing to shock state.
   1)       Shock
 resolved
   2)       Acute Respiratory Failure
 resolved and extubated
   3)       Pulmonary Embolism
   4)       Aortic Thrombosus
   5)       Atrial Fibrillation
   Plan:
   1)       EP consult
   2)       Continue agatroban and follow HIT antibodies
   3)       Obtain peripheral access and remove central line
   4)       Continue antibiotics though no clear source (? Urine)
   complete 10 day course
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2156-1-30**] 09:40 ------

2156-01-30 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EP consulted
   - Adenosine 6 mg IV push given -> broke AVNRT but resumed after seconds
   - Diltiazem 10 mg IV given -> broke AVNRT but then resumed immediately
   - Diltizazem gtt started
   - PO dilt load given at escalating doses of 30, 60, 90
   - Diltiazem gtt off since 2AM
   - PIV's placed and CVL pulled
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-1-29**] 07:30 AM
   Vancomycin - [**2156-1-29**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-30**] 12:05 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2156-1-29**] 08:00 AM
   Diltiazem - [**2156-1-29**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 76 (60 - 147) bpm
   BP: 131/56(80) {93/49(68) - 133/75(87)} mmHg
   RR: 18 (18 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
    CVP: 19 (16 - 23)mmHg
   Total In:
                                                                  1,132 mL
                                                                    540 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    772 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    820 mL
   Urine:
                                                                  2,925 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,793 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.46/28/62/19/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   158 K/uL
   9.4 g/dL
   86 mg/dL
   0.7 mg/dL
   19 mEq/L
   2.8 mEq/L
   8 mg/dL
   109 mEq/L
   136 mEq/L
   32
   13.4 K/uL
        [image002.jpg]
                             [**2156-1-28**]  05:56 AM
                             [**2156-1-28**]  11:36 AM
                             [**2156-1-28**]  12:41 PM
                             [**2156-1-28**]  03:25 PM
                             [**2156-1-28**]  05:33 PM
                             [**2156-1-29**]  12:04 AM
                             [**2156-1-29**]  05:53 AM
                             [**2156-1-29**]  11:31 AM
                             [**2156-1-30**]  03:48 AM
                             [**2156-1-30**]  06:21 AM
   WBC
   16.0
   13.4
   Hct
   33.2
   33.0
   31.8
   31.0
   31.9
   27.5
   32
   Plt
   149
   145
   148
   139
   148
   158
   Cr
   0.8
   0.7
   TCO2
   15
   16
   14
   21
   Glucose
   90
   86
   Other labs: PT / PTT / INR:32.8/58.2/3.4, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:91/36, Alk Phos / T Bili:41/1.4, Amylase
   / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:359 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   78 y/o lady supraventricular tachycardia comes in with shock.
   .
   # Shock:   Patient was in cardiogenic shock with depressed EF wall
   motion abnormality and decreased cardiac out put.  Physical exam
   converning for vasocontriction on presentation.  Patient also might
   have septic shock complicating her picture.  Most likely source is
   sepsis secondary to shock bowel vs pneumonia.  Unlikely to be due to
   urosepsis.  Her hemodynamics improved and currently off of pressors.
   - Broad coverage with Vanc/zosyn for now, day 1= [**1-27**], will discontinue
   cipro
   - f/u cultures, will send for c diff if patient stools
   - IVF prn to keep preload up
   - Transfuse to HCT above 30
   - monitor UOP
   - ruled out for MI
   - [**Month/Day (4) 5056**] for coagulopathy
   - appreciate general surgery recs
   .
   # Coagulopathy:  Concern for HIT given recent exposure on [**1-14**]%
   drop in plt since then.  Patient has multiple thrombus including PE,
   arotic/celiac thrombus and most likely emboli leading to splenic
   infarct and ? bowel infarct.  DIC will be lower in the differential.
   Fibronogen within normal limits.
   - HIT Ab sent
   - appreciate heme/onc recs, sent lupus/anticardiolipin Ab
   - [**Month/Year (2) **] gtt, titrate to PTT 60-80
   - consider starting coumadin if there are no procedures planned
   .
   # Tachycardia: Periods of AVNRT, ? Afib with RVR as some of the early
   rhythms were irregulary irregular.  Initially amio loaded but off of it
   now.  Dilt drip yesterday now on oral.
   - appreciate EP recs, no current studies are planned
   - oral dilt
   - on [**Last Name (LF) 5056**], [**First Name3 (LF) 124**] defer starting coumadin to EP team
s recs
   - replete lytes prn
   .
   # S/p extubation:  Oxygen sats dropped to 60s in ED, however unsure how
   good of a pleth obtained given patient was clamping down.  Unclear
   etiology.  CXR concerning for developing PNA.
   - Abx as above
   .
   # Right Ureteral Stone:  Does not seem like an acute complication.
   - appreciate urology recs
   - broadspectrum Abx as above
   .
   # Decreased HCT since admission:  Currently stable around 30s.
   Patient was bleeding in left hematoma and small jugular hematoma after
   line attempts.
   - active T&C
   - transfuse to HCT above 30
   .
   # FEN: advance diet as tolerated; replete lytes prn
   .
   # Prophylaxis:  Agartroban, PPI
   .
   # Access: Right  2 PIVs.
   .
   # Code: Full Code, confirmed with patient
   .
   # Contact: [**Name (NI) 50**], Mr.[**First Name8 (NamePattern2) **] [**Known lastname 4999**], [**Telephone/Fax (1) 5000**]
   .
   # Dispo:  will call out to [**Hospital Ward Name 383**] 3.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2156-1-27**] 01:53 PM
   20 Gauge - [**2156-1-29**] 12:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   I have reviewed and agree with the fellow
s assessment and plan with
   the following emphasis and modifications:
   78 year old history of urinary tract infection and stone who presented
   to ED in shock/respiratory failure and ultimately found to have
   pulmonary embolism, aortic thrombus, celiac occlusion, and urinary
   tract infection.
   Overnight, she continued to have intermittent atrial fibrillation with
   RVR but blood pressure issues are resolved. Doing fine off the
   ventilator.
   T 98.6  P 82  (sinus)  BP 127/64  RR 24  97%
   Gen: Awake, conversant and in no acute distress
   Chest: slight crackles in bases bilaterally
   Heart: S1 S2 reg
   Abd: soft, NT ND
   Ext: warm, minimal edema
   Discussion: Patient with diffuse thrombosus which most likely is
   related to HIT that developed from previous brief hospital course.  She
   likely also has underlying urine infection/urosepsis or pneumonia which
   likely contributed to initial shock presentation and severe hypothermia
   which have now resolved.
   1)       Shock
 resolved
   2)       Acute Respiratory Failure
 resolved and extubated
   3)       Pulmonary Embolism
   4)       Aortic Thrombosus
   5)       Atrial Fibrillation
 intermittent and currently in NSR
   Plan:
   1)       Continue agatroban and follow HIT antibodies
   2)       Continue cardizem for a. fib
   3)       Can transfer to floor today
   4)       Continue antibiotics though no clear source (? Urine)
   complete 10 day course
   Time Spent: 30
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2156-1-30**] 13:33 ------

2156-01-30 10:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EP consulted. Rhythym c/w AVNRT. Adenosine broke transiently. Loaded
   and started on dilt gtt, converted to po dilt, now in SR. PIVs placed,
   and CVL d/c'd.
 MULTI LUMEN - STOP [**2156-1-29**] 03:56 PM
 CALLED OUT
   Allergies:
   Erythromycin Base
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2156-1-29**] 07:30 AM
   Vancomycin - [**2156-1-29**] 11:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2156-1-30**] 09:18 AM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2156-1-29**] 03:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-1-30**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 67 (60 - 147) bpm
   BP: 118/63(76) {96/47(59) - 128/70(84)} mmHg
   RR: 21 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 70 kg
   Height: 64 Inch
   CVP: 19 (16 - 23)mmHg
   Total In:
                                                                  1,132 mL
                                                                    721 mL
   PO:
                                                                    360 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    772 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                  1,295 mL
   Urine:
                                                                  2,925 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,793 mL
                                                                   -574 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.46/28/62/19/-1
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   bilateral bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   158 K/uL
   86 mg/dL
   0.7 mg/dL
   19 mEq/L
   2.8 mEq/L
   8 mg/dL
   109 mEq/L
   136 mEq/L
   32
   13.4 K/uL
        [image002.jpg]
                             [**2156-1-28**]  05:56 AM
                             [**2156-1-28**]  11:36 AM
                             [**2156-1-28**]  12:41 PM
                             [**2156-1-28**]  03:25 PM
                             [**2156-1-28**]  05:33 PM
                             [**2156-1-29**]  12:04 AM
                             [**2156-1-29**]  05:53 AM
                             [**2156-1-29**]  11:31 AM
                             [**2156-1-30**]  03:48 AM
                             [**2156-1-30**]  06:21 AM
   WBC
   16.0
   13.4
   Hct
   33.2
   33.0
   31.8
   31.0
   31.9
   27.5
   32
   Plt
   149
   145
   148
   139
   148
   158
   Cr
   0.8
   0.7
   TCO2
   15
   16
   14
   21
   Glucose
   90
   86
   Other labs: PT / PTT / INR:32.8/58.2/3.4, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:91/36, Alk Phos / T Bili:41/1.4, Amylase
   / Lipase:/11, D-dimer:[**Numeric Identifier 4998**] ng/mL, Fibrinogen:359 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:2.4 g/dL, LDH:268 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Plan:
   1. Cardiogenic and Septic Shock: Vanco/Zosyn, no growth from cultures
   -d/c cipro, complete [**9-8**] d course of abx
   2. HIT vs. DIC with diffuse thrombi
   -cont. argatroban, can start coumadin when sure she needs no procedures
   -follow hct
   -f/u PF4
   3. afib: cont. po dilt
   -f/u EP recs
   -avoid caffeine
   -repeat TTE at some point
   -90 mg qid dilt
   4. Ureteral stone: f/u with urology
   5. FEN: Heart healthy diet, replete K and recheck lytes
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2156-1-29**] 12:09 PM
   18 Gauge - [**2156-1-30**] 09:29 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I have reviewed and agree with the fellow
s assessment and plan with
   the following emphasis and modifications:
   78 year old history of urinary tract infection and stone who presented
   to ED in shock/respiratory failure and ultimately found to have
   pulmonary embolism, aortic thrombus, celiac occlusion, and urinary
   tract infection.
   Overnight, she continued to have intermittent atrial fibrillation with
   RVR but blood pressure issues are resolved. Doing fine off the
   ventilator.
   T 98.6  P 82  (sinus)  BP 127/64  RR 24  97%
   Gen: Awake, conversant and in no acute distress
   Chest: slight crackles in bases bilaterally
   Heart: S1 S2 reg
   Abd: soft, NT ND
   Ext: warm, minimal edema
   Discussion: Patient with diffuse thrombosus which most likely is
   related to HIT that developed from previous brief hospital course.  She
   likely also has underlying urine infection/urosepsis or pneumonia which
   likely contributed to initial shock presentation and severe hypothermia
   which have now resolved.
   1)       Shock
 resolved
   2)       Acute Respiratory Failure
 resolved and extubated
   3)       Pulmonary Embolism
   4)       Aortic Thrombosus
   5)       Atrial Fibrillation
 intermittent and currently in NSR
   Plan:
   1)       Continue agatroban and follow HIT antibodies
   2)       Continue cardizem for a. fib
   3)       Can transfer to floor today
   4)       Continue antibiotics though no clear source (? Urine)
   complete 10 day course
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 5057**] [**Name8 (MD) 3487**], MD
   on:[**2156-1-30**] 13:27 ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 5057**] [**Name8 (MD) 3487**], MD
   on:[**2156-1-30**] 13:28 ------